US07973072B2
To a solution of thiophenol (8.87 g, 80.6 mmol) in THF (20 ml) and triethylamine (8.6 g, 11.9 ml, 85 mmol) was added dropwise, with ice cooling, acrylic acid (5.8 g, 5.5 ml, 81 mmol). The reaction mixture was stirred at 0° C. for 1 h and then at RT overnight, acidified with 2N hydrochloric acid and extracted with diethyl ether (2×100 ml). The combined organic phases were dried over sodium sulfate and the solvent was removed under reduced pressure. The desired 3-phenylsulfanylpropionic acid product (13.67 g, 93% of theory) was obtained as a white solid (m.p. 51-54° C.)

reactant | thiophenol | 80.6 mmol, 8.87 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 85 mmol, 11.9 ml, 8.6 g | C(C)N(CC)CC | C6H15N
reactant | acrylic acid | 81 mmol, 5.5 ml, 5.8 g | C(C=C)(=O)O | C3H4O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-phenylsulfanylpropionic acid | 13.67 g, 93% | C1(=CC=CC=C1)SCCC(=O)O | C9H10O2S
